### PR TITLE
Mean Value Problem

### PR DESCRIPTION
**Pull request by JavierDuranFernandez**
In this pull request I formalize the mean value problem and a few variants. 

It states:
Given a complex polynomial $p$ of degree $d ≥ 2$ and a complex number $z$
there is a critical point $c$ of $p$, such that $|p(z)-p(c)|/|z-c| ≤ K* |p'(z)|$ for $K=1$.

### CODE REVIEW

**Comment by mo271** [comment]
(accidentally added Floris as reviewer shortly, because I confused this pull request with #1208 ...)

File: FormalConjectures/Wikipedia/MeanValueProblem.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+-/
+
+/--
+Given a complex polynomial $p$ of degree $d ≥ 2$ and a complex number $z$
+there is a critical point $c$ of $p$, such that $|p(z)-p(c)|/|z-c| ≤ |p'(z)|$.
+-/
+@[category research open, AMS 12]
+lemma mean_value_problem (p : Polynomial ℂ) (hp : 2 ≤ p.degree) (z : ℂ) (K : ℝ):
+    ∃ c : ℂ, p.derivative.eval c = 0 ∧
+      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ ‖p.derivative.eval z‖ :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MeanValueProblem.lean]:
```suggestion
      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ ‖p.derivative.eval z‖ := by
```

File: FormalConjectures/Wikipedia/MeanValueProblem.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+
+/--
+The following weaker version of the mean value problem has been proven.
+Given a complex polynomial $p$ of degree $d ≥ 2$ and a complex number $z$
+there a critical point $c$ of $p$, such that $|p(z)-p(c)|/|z-c| ≤ 4|p'(z)|$.
+-/
+@[category research solved, AMS 12]
+lemma mean_value_problem_leq_4 (p : Polynomial ℂ) (hp : 2 ≤ p.degree) (z : ℂ) (K : ℝ):
+    ∃ c : ℂ, p.derivative.eval c = 0 ∧
+      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ 4 *‖p.derivative.eval z‖ :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MeanValueProblem.lean]:
```suggestion
      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ 4 *‖p.derivative.eval z‖ := by
```

File: FormalConjectures/Wikipedia/MeanValueProblem.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+The following tighter bound depending on the degree $d$ of the polynomial $p$,
+in the case of $p$ only having real roots has been shown by Tischler.
+|p(z)-p(c)|/|z-c| ≤ (d-1)/d * |p'(z)|
+-/
+
+@[category research solved, AMS 12]
+lemma mean_value_problem_of_real_roots (p : Polynomial ℂ) (hp : 2 ≤ p.natDegree)
+    (h : ∀ x : ℂ, p.IsRoot x → x.im = 0) (z : ℂ) (K : ℝ) :
+    ∃ c : ℂ, p.derivative.eval c = 0 ∧
+      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ (p.natDegree - 1)/ p.natDegree * ‖p.derivative.eval z‖ :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MeanValueProblem.lean]:
```suggestion
      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ (p.natDegree - 1)/ p.natDegree * ‖p.derivative.eval z‖ := by
```

File: FormalConjectures/Wikipedia/MeanValueProblem.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+The following tighter bound depending on the degree $d$ of the polynomial $p$,
+in the case of $p$ all roots having the same norm has been shown by Tischler.
+|p(z)-p(c)|/|z-c| ≤ (d-1)/d * |p'(z)|
+-/
+
+@[category research solved, AMS 12]
+lemma mean_value_problem_of_roots_same_norm (p : Polynomial ℂ) (hp : 2 ≤ p.natDegree)
+    (h : ∀ x  y : ℂ, p.IsRoot x ∧ p.IsRoot y → ‖x‖=‖y‖) (z : ℂ) (K : ℝ) :
+    ∃ c : ℂ, p.derivative.eval c = 0 ∧
+      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ (p.natDegree - 1)/ p.natDegree * ‖p.derivative.eval z‖ :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MeanValueProblem.lean]:
```suggestion
      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ (p.natDegree - 1)/ p.natDegree * ‖p.derivative.eval z‖ := by
```

File: FormalConjectures/Wikipedia/MeanValueProblem.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+lemma mean_value_problem_of_real_roots (p : Polynomial ℂ) (hp : 2 ≤ p.natDegree)
+    (h : ∀ x : ℂ, p.IsRoot x → x.im = 0) (z : ℂ) (K : ℝ) :
+    ∃ c : ℂ, p.derivative.eval c = 0 ∧
+      ‖p.eval z - p.eval c‖ / ‖z - c‖ ≤ (p.natDegree - 1)/ p.natDegree * ‖p.derivative.eval z‖ :=
+  sorry
+
+/--
+The following tighter bound depending on the degree $d$ of the polynomial $p$,
+in the case of $p$ all roots having the same norm has been shown by Tischler.
+|p(z)-p(c)|/|z-c| ≤ (d-1)/d * |p'(z)|
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MeanValueProblem.lean]:
```suggestion
$$|p(z) - p(c)|/|z-c| ≤ (d-1)/d * |p'(z)|$$.
```
